US20010020110A1
In a 500 ml four-neck flask were added 2-[4-(trifluoromethyl)phenyl]toluene (40 g, 169.3 mol) and monochlorobenzene (200 g) and the mixture was heated to 60° C. AIBN (0.28 g, 1.7 mmol) was added and bromine (31.2 g, 195.2 mmol) was added dropwise over 5 hr at 600C -65° C. After the dropwise addition, the mixture was stirred for one more hour and concentrated under reduced pressure. Crystallization from n-heptane gave 2-[4-(trifluoromethyl)phenyl]benzyl bromide (16.2 g, 51.4 mmol, liquid chromatography(LC) purity: 99.8%, yield: 30%) as white crystals.

reactant | 2-[4-(trifluoromethyl)phenyl]toluene | 169.3 mol, 40 g | FC(C1=CC=C(C=C1)C1=C(C=CC=C1)C)(F)F | C14H11F3
reactant | bromine | 195.2 mmol, 31.2 g | BrBr | Br2
catalyst | AIBN | 1.7 mmol, 0.28 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | monochlorobenzene | 200 g | ClC1=CC=CC=C1 | C6H5Cl
product | 2-[4-(trifluoromethyl)phenyl]benzyl bromide | 51.4 mmol, 16.2 g, yield: 30% | FC(C1=CC=C(C=C1)C1=C(CBr)C=CC=C1)(F)F | C14H10BrF3
